US07138533B2
5-Chloro-1-(2,2-dimethyl-3,4-dihydro-2H-chromen-6-yl)-1-pentanone
Using 2,2-dimethylchroman (19.7 g) and 5-chlorovaleryl chloride (20.7 g) according to the same method as that of Reference Example 1, the title compound was obtained as colorless crystals (22.0 g) having a melting point of 50 to 51° C.

reactant | 2,2-dimethylchroman | 19.7 g | CC1(OC2=CC=CC=C2CC1)C | C11H14O
reactant | 5-chlorovaleryl chloride | 20.7 g | ClCCCCC(=O)Cl | C5H8Cl2O
product | 5-Chloro-1-(2,2-dimethyl-3,4-dihydro-2H-chromen-6-yl)-1-pentanone | ClCCCCC(=O)C=1C=C2CCC(OC2=CC1)(C)C | C16H21ClO2
